US05763458
N-Acetyl-2-chloro-5-methoxyaniline (10.0 g, 50 mmol), aluminum chloride (13.3 g, 100 mmol), and 5-chloropentanoyl chloride (11.7 g, 75 mmol) were combined in ethylene dichloride (100 mL) and the mixture was stirred at room temperature and under nitrogen for 7 days. The mixture was then poured onto crushed ice and extracted into methylene chloride. The methylene chloride extract was washed with water and then dried. The solvent was evaporated in vacuo. Crystallization of the residue from ethyl acetate/hexane gave 1-(4-acetylamino-5-chloro-2-hydroxyphenyl)-5-chloropentan-1-one (10.18 g, 35.1 mmol), m.p. 126°-128° C.

reactant | N-Acetyl-2-chloro-5-methoxyaniline | 50 mmol, 10.0 g | C(C)(=O)NC1=C(C=CC(=C1)OC)Cl | C9H10ClNO2
reactant | aluminum chloride | 100 mmol, 13.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-chloropentanoyl chloride | 75 mmol, 11.7 g | ClCCCCC(=O)Cl | C5H8Cl2O
solvent | ethylene dichloride | 100 mL | C(CCl)Cl | C2H4Cl2
product | 1-(4-acetylamino-5-chloro-2-hydroxyphenyl)-5-chloropentan-1-one | 35.1 mmol, 10.18 g | C(C)(=O)NC1=CC(=C(C=C1Cl)C(CCCCCl)=O)O | C13H15Cl2NO3
